US07714168B2
According to the same method as that of Production Example 1, 1,2-dimethyl-1-cyanopropylamine was used in place of 2,2-dimethylpropylamine, 3,5-difluoro-4-(2-propynyloxy)benzoyl chloride was used in place of 4-(2-propynyloxy)-3-methoxybenzoyl chloride to obtain N-(1,2-dimethyl-1-cyanopropyl)-3,5-difluoro-4-(2-propynyloxy)benzamide (hereinafter, described as the compound 53 of the present invention) represented by the formula:

reactant | 1,2-dimethyl-1-cyanopropylamine | CC(C(C)C)(C#N)N | C6H12N2
reactant | 3,5-difluoro-4-(2-propynyloxy)benzoyl chloride | FC=1C=C(C(=O)Cl)C=C(C1OCC#C)F | C10H5ClF2O2
product | N-(1,2-dimethyl-1-cyanopropyl)-3,5-difluoro-4-(2-propynyloxy)benzamide | CC(C(C)C)(C#N)NC(C1=CC(=C(C(=C1)F)OCC#C)F)=O | C16H16F2N2O2
